US03989690
1-methyl-5-nitro-2-cyanoimidazole (0.6 mole) was dissolved in this mixture at 40° C. Thioacetamide (1.2 mole) was added and stirring continued for 3 hours at 40° C. The resultant solution was poured on to 4 liters of ice/water mixture and stirred for 30 minutes. The precipitate was collected, slurried with water, filtered and dried to yield 1-methyl-2-thiocarbamyl-5-nitroimidazole, m.p. 148°-50° C.

reactant | 1-methyl-5-nitro-2-cyanoimidazole | 0.6 mole | CN1C(=NC=C1[N+](=O)[O-])C#N | C5H4N4O2
reactant | Thioacetamide | 1.2 mole | C(C)(=S)N | C2H5NS
product | 1-methyl-2-thiocarbamyl-5-nitroimidazole | CN1C(=NC=C1[N+](=O)[O-])C(N)=S | C5H6N4O2S
